US04440929
5-Methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
To a solution of 4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (12.4 g) and methyl iodide (98 g) in DMF (1 liter) was added silver oxide (65 g) with stirring. The reaction mixture was stirred at room temperature for 18 hours. After removal of insoluble material the solution was evaporated under oil pump vacuum to dryness. The residue was extracted with chloroform several times. The combined chloroform extracts were washed with water, dried by magnesium sulfate, then evaporated under water aspirator vacuum to give the product as a white solid (8.2 g, 63% yield). Recrystallized from acetonitrile, m.p. 233°-236° C.

reactant | 4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 12.4 g | C(C)OC(=O)C=1N=CN2C1C(NC1=CC=CC=C21)=O | C13H11N3O3
reactant | methyl iodide | 98 g | CI | CH3I
solvent | DMF | 1 liter | CN(C)C=O | C3H7NO
catalyst | silver oxide | 65 g | [Ag]=O
product | 5-Methyl-4-oxo-4,5-dihydroimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 8.2 g, 63% yield | C(C)OC(=O)C=1N=CN2C1C(N(C1=CC=CC=C21)C)=O | C14H13N3O3
